US05332757
Using an analogous procedure to that described in Example 7, 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-2'-methoxyacetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-2'-methoxyacetophenone oxime in 52% yield, m.p. 155° C.;

reactant | 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-2'-methoxyacetophenone | FC=1C=C(C=C(C1)SC1=CC(=C(C=C1)C(C)=O)OC)C1(CCOCC1)OC | C21H23FO4S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-2'-methoxyacetophenone oxime | 52% yield | FC=1C=C(C=C(C1)SC1=CC(=C(C=C1)/C(/C)=N/O)OC)C1(CCOCC1)OC | C21H24FNO4S
